US06919337B2
Excess morpholine is added to a suspension of (1-chloro-6,7-dimethoxy-isoquinolin-4-yl)-acetic acid ethyl ester (0.200 g, 0.65 mmol) in toluene (1 ml) and the mixture heated to reflux until the starting material is consumed. After evaporation, the residue is partitioned between water and dichloromethane, the organic phase is dried over magnesium sulfate and evaporated. to afford (6,7-dimethoxy-1-morpholin4-yl-isoquinolin4-yl)-acetic acid ethyl ester [MH]+ 361. The crude ester (0.240 g, 0.66 mmol) is dissolved in ethanol (20 ml), treated with 2M sodium hydroxide (3 ml) and stirred at room temperature overnight. After adjustment to pH 1 with concentrated hydrochloric acid, the solvent is evaporated and the crude acid used directly for formation of the xanthine derivative.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | (1-chloro-6,7-dimethoxy-isoquinolin-4-yl)-acetic acid ethyl ester | 0.65 mmol, 0.200 g | C(C)OC(CC1=CN=C(C2=CC(=C(C=C12)OC)OC)Cl)=O | C15H16ClNO4
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | (6,7-dimethoxy-1-morpholin4-yl-isoquinolin4-yl)-acetic acid ethyl ester | C(C)OC(CC1=CN=C(C2=CC(=C(C=C12)OC)OC)N1CCOCC1)=O | C19H24N2O5
